2185-03-14 07:39:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   Mr. [**Known lastname 6446**] is a 60 year old male with past medical history of alcohol
   abuse, seizures, intracranial bleed, diastolic CHF, and COPD who
   presented intubated after witnessed seizure in the emergency
   department.
   24 Hour Events:
 INVASIVE VENTILATION - START [**2185-3-13**] 05:35 PM
 NASAL SWAB - At [**2185-3-13**] 06:00 PM
 URINE CULTURE - At [**2185-3-13**] 06:00 PM
   Allergies:
   Penicillins- Unknown;
   Ampicillin- Unknown;
   Folic Acid- Unknown;
   Last dose of Antibiotics:
   Infusions:
   Midazolam (Versed) - 4 mg/hour
   Other ICU medications:
   Dilantin - [**2185-3-13**] 08:06 PM
   Heparin Sodium (Prophylaxis) - [**2185-3-14**] 12:13 AM
   Midazolam (Versed) - [**2185-3-14**] 06:45 AM
   Other medications:
   Flowsheet Data as of  [**2185-3-14**] 07:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 36.1
C (97
   HR: 92 (89 - 121) bpm
   BP: 126/77(90) {74/48(55) - 139/87(97)} mmHg
   RR: 14 (6 - 25) insp/min
   SpO2: 99%
   Heart rhythm: AF (Atrial Fibrillation)
   Wgt (current): 85.2 kg (admission): 80 kg
             Total In:
                                                                  1,410 mL
                                                                  2,007 mL
   PO:
             TF:
   IVF:
                                                                  1,230 mL
                                                                  1,707 mL
   Blood products:
   Total out:
                                                                    590 mL
                                                                    390 mL
   Urine:
                                                                    590 mL
                                                                    390 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    820 mL
                                                                  1,617 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (550 - 600) mL
   Vt (Spontaneous): 2,115 (2,115 - 2,115) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: No Spon Resp
   PIP: 26 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.36/50/465/23/2
   Ve: 8.1 L/min
   PaO2 / FiO2: 1,163
   Physical Examination
   Labs / Radiology
   277 K/uL
   10.5 g/dL
   74 mg/dL
   0.5 mg/dL
   23 mEq/L
   4.1 mEq/L
   11 mg/dL
   106 mEq/L
   138 mEq/L
   31.4 %
   6.5 K/uL
        [image002.jpg]
                             [**2185-3-13**]  03:51 PM
                             [**2185-3-14**]  04:09 AM
   WBC
   6.5
   Hct
   31.4
   Plt
   277
   Cr
   0.5
   TCO2
   29
   Glucose
   74
   Other labs: Lactic Acid:1.1 mmol/L, Ca++:7.1 mg/dL, Mg++:1.9 mg/dL,
   PO4:2.1 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 6446**] is a 60 year old male with past medical history of alcohol
   abuse, seizures, intracranial bleed, diastolic CHF, and COPD who
   presented intubated after witnessed seizure in the emergency
   department.
   .
   #) Respiratory failure: Patient was intubated in setting of seizure in
   order to protect airway and in anticipation of large anticipated doses
   of sedating medications. Per report there was no respiratory distress
   prior to intubation, and no significant amount of secretions. Chest
   x-ray with small bilateral effusions and atelectasis, however has a
   history of chronic effusions and is status-post VATS in [**2182**].
   - Wean to pressure support, decrease FiO2 and follow serial ABGs, will
   hope for SBT in morning and extubation if he is requiring only minimal
   ventilator support
   - If making secretions, will send off sputum cultures
   - Albuterol/atrovent MDI's
   - Balance need for sedation for withdrawal symptoms with attempting to
   not over suppress respiratory drive
   .
   #) Seizure: Patient has a history of alcohol withdrawal seizures, as
   well as intracranial hemorrhage. It is unknown when exactly his last
   drink was, and if he sustained any recent trauma, however head CT
   preliminary read was negative for any new pathology. His electrolytes
   appear to be within normal limits, however his phenytoin level is low
   at 3.6. It is unknown which, and how much, anti-seizure medications he
   was taking prior to admission. Correct dilantin level for albumin is
   4.29.
   - Will discuss with neurology benefits of reloading patient with
   dilantin. It remains unclear if he has seizures outside of alcohol
   withdrawal, but his prior bleeds may serve as a focus of irritation for
   further seizures. After discussing with neurology, will give additional
   dose of 500 mg of dilantin, then resume 250 mg [**Hospital1 7**] dosing, following up
   levels.
   - Follow up final head CT read
   - Monitor and repeat electrolytes closely (added on magnesium, calcium,
   phosphate)
   .
   #) History of alcohol withdrawal: Patient already on versed drip for
   sedation, which will also serve to help with any withdrawal.
   - IVF repletion
   - Monitor and replete electrolytes aggressively
   - Valium 10 mg Q10-15 minutes PRN CIWA >10, as load with valium will
   attempt to wean versed drip off, then plan for extubation
   .
   #) Tachycardia: Appears to be in atrial fibrillation. Improved with IVF
   and after treating withdrawal with benzodiazepams. Blood pressure is
   stable and does not appear to be in sustained RVR.
   - Continue to monitor trend on telemetry
   .
   #) Hand erythema: Not overly convincing at present for cellulitis,
   however will continue to monitor. He received a dose of vancomycin in
   the ED for possible cellulitis.
   .
   #) Diastolic CHF: Per records, patient has a history of diastolic CHF,
   however there are no echocardiograms in our system.
   - Monitoring BP, respiratory status closely.
   .
   #) COPD: Per records from last admission, patient was treated with
   albuterol, flovent, and spiriva. Currently he has no evidence of
   exacerbation.
   - Continue albuterol, flovent. Holding spiriva while intubated.
   .
   #) Atrial fibrillation: Per report, patient has not been on
   anticoagulation as outpatient, and ASA was held during last admission
   in [**2184-9-22**] due to his intracranial bleeding. He is likely not a
   candidate for anticoagulation given history of multiple types of
   bleeding and falls with seizures.
   - Monitor rate, no anticoagulation given history of intracerebral bleed
   and falls
   - repleting mg
   .
   #) Esophageal adenocarcinoma: Patient is status-post treatment, unclear
   if this has been followed up regularly. Not an acute issue--no mets
   noted on CT scan, however could miss these. Would consider MRI once
   withdrawal symptoms treated.
   .
   #) History of intraparenchymal hemorrhage, subdural: Per inital report,
   no new findings on head CT.
   - Follow up final head CT [**Location (un) **], mental status once off sedation and
   extubated.
   .
   #) Anemia: Per OMR records, patient's baseline during last stay appears
   to be 28-30. His MCV is 91.
   - Guaiac stools
   - Checking folate, B12 (although has reported allergy to folic acid,
   however he was given a dose in ED), iron studies